US05665754
To a solution of trans-3-(3-cyclopentoxy-4-methoxyphenyl)-4-(methoxycarbonyl)pyrrolidine (500 mg, 1.57 mmol) in 7 mL of THF at 0° C. was added LiAlH4 (60 mg, 1.57 mmol). The resulting mixture was stirred for 15 min at 0° C. and then allowed to stir at room temperature for 20 min. The mixture was then successively treated dropwise with H2O (0.06 mL), 15% NaOH (0.06 mL), and H2O (0.18 mL). The resulting suspension was then stirred for 1 hr, filtered through Celite, and concentrated under reduced pressure to an oil. Silica gel chromatography (1:1 CHCl3 :methanol) provided trans-3-(3-cyclopentoxy-4-methoxyphenyl)-4-(hydroxymethyl)pyrrolidine as a pale yellow oil (329 mg, 72%). 1H-NMR (300 MHz): δ 2.35 (m, 1), 2.90-3.08 (m, 3), 3.30-3.76 (m, 4), 3.82 (s, 3).

reactant | trans-3-(3-cyclopentoxy-4-methoxyphenyl)-4-(methoxycarbonyl)pyrrolidine | 1.57 mmol, 500 mg | C1(CCCC1)OC=1C=C(C=CC1OC)[C@@H]1CNC[C@H]1C(=O)OC | C18H25NO4
reactant | LiAlH4 | 1.57 mmol, 60 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2O | 0.06 mL | O | H2O
reactant | NaOH | 0.06 mL | [OH-].[Na+]
reactant | H2O | 0.18 mL | O | H2O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | trans-3-(3-cyclopentoxy-4-methoxyphenyl)-4-(hydroxymethyl)pyrrolidine | 329 mg, 72% | C1(CCCC1)OC=1C=C(C=CC1OC)[C@@H]1CNC[C@H]1CO | C17H25NO3
